US04171303
A suspension of 48 g. (0.09 moles) of 6-(α-phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid triethylammonium salt in 250 ml. of ethyl acetate is cooled to 0° C., and acidified to pH=2.5 with 2 n aqueous hydrochloric acid. The organic phase is separated, washed with 2×30 ml. of saturated aqueous sodium chloride solution, filtered, and a solution of 12 g. (0.09 moles) of sodium diethylacetate in 50 ml. of acetone is added to the filtrate. The precipitated white powder is filtered off. 36 g. (85%) of 6-(α-phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt are obtained; m.p.: 233°-235° C.

reactant | 6-(α-phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid triethylammonium salt | 0.09 moles | C(C)[NH+](CC)CC.O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium diethylacetate | 0.09 moles | C(C)C(C(=O)[O-])CC.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-(α-phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt | 85% | [Na+].O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C1=CC=CC=C1 | InChI=1S/C23H22N2O6S.Na/c1-23(2)17(21(28)29)25-19(27)16(20(25)32-23)24-18(26)15(13-9-5-3-6-10-13)22(30)31-14-11-7-4-8-12-14;/h3-12,15-17,20H,1-2H3,(H,24,26)(H,28,29);/q;+1/p-1/t15?,16?,17?,20-;/m1./s1
